US05306830
To a mixture of 8-bromo-3-(n-propylamino)chroman (120 mg; 0.5 mmol) in dichloromethane (20 ml) and 5% aqueous Na2CO3 (20 ml) was added cyclopropanecarbonyl chloride (300 mg; 3.5 mmol). The mixture was stirred for 2 hours, the phases were separated and the organic layer dried (MgSO4). The solvent was evaporated and the crude amide was reduced with tetrabutylammonium borohydride (500 mg, 2.0 mmol) in a boiling (1:1)-mixture (50 ml) of dichloromethane and 1,2-dichloroethane for 24 hours. Hydrochloric acid (1M; 10 ml) was added and the phases were stirred for 1 hour at room temperature. pH was adjusted with 2M aqueous NaOH to 11 add the phases were separated. The organic layer was dried (Na2SO4) and the solvent evaporated yielding an oil, which was chromatographed (SiO2) eluting with light petroleum:ether (3:1). The fractions containing pure product were pooled yielding 100 mg (61%) of 8-bromo-3-(N-methylcyclopropyl-N-n-propylamino)chroman. GC/MS showed M+ /M+2 at m/e=323 (11%)/325 (10% and the base peak pair m/e=294(110%)/296(98%).

reactant | 8-bromo-3-(n-propylamino)chroman | 0.5 mmol, 120 mg | BrC=1C=CC=C2CC(COC12)NCCC | C12H16BrNO
reactant | cyclopropanecarbonyl chloride | 3.5 mmol, 300 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | tetrabutylammonium borohydride | 2.0 mmol, 500 mg | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Hydrochloric acid | 1M, 10 ml | Cl | ClH
reactant | NaOH | 2M | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Na2CO3 | 20 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 8-bromo-3-(N-methylcyclopropyl-N-n-propylamino)chroman | 100 mg, 61% | BrC=1C=CC=C2CC(COC12)N(CCCC1CC1)C | C16H22BrNO
